US05571775
40. Preparation of 2-Benzylthio-7-bromo-5-methoxy[1,2,4]triazolo[1,5-a]pyridine
2-Benzylthio-5,7-dibromo[1,2,4]triazolo[1,5-a]pyridine (11.6 g, 0.029 mol) and 25 percent sodium methoxide in methanol (13.0 mL, 3.1 g, 0.057 mol) were combined with 300 mL of acetonitrile and the mixture was heated to reflux with stirring for an hour. An additional 26 mL of 25 percent sodium methoxide in methanol was then added. After a 15-min reaction period, the mixture was acidified with acetic acid and the volatiles were removed by evaporation under reduced pressure. The residue was chromatographed on silica gel eluting with 20 percent ethyl acetate in hexane to obtain 4.97 g (49 percent of theory) of the title compound as a tan powder melting at 80°-82° C.

reactant | 2-Benzylthio-5,7-dibromo[1,2,4]triazolo[1,5-a]pyridine | 0.029 mol, 11.6 g | C(C1=CC=CC=C1)SC1=NN2C(C=C(C=C2Br)Br)=N1 | C13H9Br2N3S
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetonitrile | 300 mL | C(C)#N | C2H3N
reactant | sodium methoxide | 26 mL | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | methanol | 0.057 mol, 13.0 mL, 3.1 g | CO | CH4O
product | 2-Benzylthio-7-bromo-5-methoxy[1,2,4]triazolo[1,5-a]pyridine | C(C1=CC=CC=C1)SC1=NN2C(C=C(C=C2OC)Br)=N1 | C14H12BrN3OS
